US07112638B2
Synthesis of 3-chloro-2-methyl-3-phenyl-2-propenal
1.2 mol (110 mL) of POCl3 was added at 0° C. to a 2.8 mol (216 mL) of DMF (excess of DMF used as solvent). At the end of the addition, the mixture was allowed to warm to room temperature and stirred for 1 h. Then it was cooled again to 0° C. and treated with 1 mol (134 g) of propiophenone. The resulting reaction mixture was allowed to reach room temperature and stirred overnight. Then it was poured into a mixture of ice and water, added of sodium acetate and extracted with CHCl3 (3×150 mL). The organic phase was separated, washed with water until neutral pH, dried over MgSO4 and evaporated off to dryness. The residue was distilled in vacuo, b.p. 120° C./10 torr. Yield 163 g (90%).

reactant | POCl3 | 1.2 mol, 110 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 2.8 mol, 216 mL | CN(C)C=O | C3H7NO
reactant | propiophenone | 1 mol, 134 g | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 3-chloro-2-methyl-3-phenyl-2-propenal | ClC(=C(C=O)C)C1=CC=CC=C1 | C10H9ClO
